US04208409
The O,O-diethyl N-(chlorothio)phenylphosphoramidothioate as a yellow oil obtained in Part A, above, is dissolved in a minimal amount of diethyl ether (about 5 ml) and the ether solution is added to a cooled (0° C.) solution consisting of 6.34 gm (0.030 mole) of 2-isopropoxyphenyl methylcarbamate and 20 ml dimethylformamide. This reaction mixture is stirred as it is permitted to warm to 25° C., and stirring is continued for four hours. The mixture is then diluted with 100 ml water and extracted with diethyl ether. The ether phase is recovered, washed with water, and dried over anhydrous sodium sulfate. The ether is removed by evaporation under reduced pressure. The oily residue thus obtained is chromatographed through a column of silica gel. Development is with methylene chloride. After removing the methylene chloride by evaporation under reduced pressure, there is obtained 1.02 gm. of the crude product as an amber oil which is crystallized from petroleum ether having a boiling range between 30° and 60° C. to give 2-isopropoxyphenyl [[(diethoxyphosphinothioyl)anilino]thio]methylcarbamate as colorless crystals having a melting point at 69° to 70.5° C.

reactant | O,O-diethyl N-(chlorothio)phenylphosphoramidothioate | ClSN(P(OCC)(OCC)=S)C1=CC=CC=C1 | C10H15ClNO2PS2
reactant | 2-isopropoxyphenyl methylcarbamate | 0.030 mole, 6.34 gm | CNC(OC1=C(C=CC=C1)OC(C)C)=O | C11H15NO3
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | about 5 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-isopropoxyphenyl [[(diethoxyphosphinothioyl)anilino]thio]methylcarbamate | C(C)OP(=S)(OCC)N(C1=CC=CC=C1)SCNC(OC1=C(C=CC=C1)OC(C)C)=O | C21H29N2O5PS2
